US07595315B2
Add 1.7M tert-BuLi (26 ml, 44 mmol) dropwise, at −78° C. under inert atmosphere, to a solution of 1-Iodo-2-iso-propylbenzene (5 g, 20.3 mmol) in 70 ml of dry THF and stir. After 10 min, add Paraformaldehyde (2 g, 66.7 mmol) in a single portion. Stir the reaction at this temperature for 15 min and then at room temperature for 2 h. Add a saturated aqueous solution of NH4Cl and extract with CH2Cl2 three times. Dry the combined organic extracts over Na2SO4, filter and concentrate under reduced pressure to give a residue. Purify the residue by column chromatography on silica gel eluting with CH2Cl2 to afford pure (2-Isopropyl-phenyl)-methanol as pale purple oil. Add aqueous concentrated HBr (15 ml) to a solution of (2-Isopropyl-phenyl)-methanol (1,93 g, 12.85 mmol) in CH2Cl2(15 ml) and stir at room temperature. After 2 h. separate phases and wash the organic one with H2O; dry over Na2SO4 and evaporate at vacuum to obtain a residue. Purify the residue by column chromatography on silica gel eluting with CH2Cl2 to obtain 1-Bromomethyl-2-isopropyl-benzene as very pale pink light oil. 1H-NMR (CDCl3, 200 MHz): δ 7.33-7.25 (m, 3H), 7.19-7.11 (m, 1H), 4.58 (s, 1H), 3.31 (sep, J=6.8 Hz, 1H), 1.30 (d, J=6.8 Hz, 6H).

reactant | tert-BuLi | 44 mmol, 1.7M, 26 ml | [Li]C(C)(C)C
reactant | 1-Iodo-2-iso-propylbenzene | 20.3 mmol, 5 g | IC1=C(C=CC=C1)C(C)C | C9H11I
reactant | Paraformaldehyde | 66.7 mmol, 2 g | C=O | CH2O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | (2-Isopropyl-phenyl)-methanol | C(C)(C)C1=C(C=CC=C1)CO | C10H14O
